US07947714B2
tert-Butyl 4-[4-cyano-1-(propylsulfonyl)piperidin-4-yl]piperazine-1-carboxylate was reacted with lithium aluminium hydride as in Scheme 5 to give {[4-(4-methylpiperazin-1-yl)-1-(propylsulfonyl)piperidin-4-yl]methyl}amine as a clear oil. m/z (M++H) 319.

reactant | tert-Butyl 4-[4-cyano-1-(propylsulfonyl)piperidin-4-yl]piperazine-1-carboxylate | C(#N)C1(CCN(CC1)S(=O)(=O)CCC)N1CCN(CC1)C(=O)OC(C)(C)C | C18H32N4O4S
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | {[4-(4-methylpiperazin-1-yl)-1-(propylsulfonyl)piperidin-4-yl]methyl}amine | CN1CCN(CC1)C1(CCN(CC1)S(=O)(=O)CCC)CN | C14H30N4O2S
